US06071927
3-Bromo-4-(cyclobutyloxy)trifluoroanisole
2-Bromo-4-(trifluoromethoxy)phenol (Description 11; 1.5 g, 5.83 mmol) and cyclobutyl bromide (3.0 g, 17.5 mmol) were dissolved in dimethylformamide (10 ml). Potassium carbonate (4.85 g, 35 mmol) was added and the solution was stirred at 50° C. for 16 h. The solution was allowed to cool to ambient temperature, poured into a 10% citric acid solution (50 ml) and extracted with ethyl acetate (2×100 ml). The combined organic layers were washed with water and dried over sodium sulphate. Removal of the solvent in vacuo gave an oil which was chromatographed on silica in 10% ethyl acetate/hexane to give the title compound as an oil (1.65 g, 91%). 1H NMR (250 MHz, CDCl3) δ7.44-7.42 (1H, m), 7.12-7.07 (1H, m), 6.73-6.70 (1H, d, J 9.0 Hz), 4.71-4.60 (1H, m), 2.52-2.41 (2H, m), 2.30-2.18 (2H, m), and 1.92-1.55 (2H, m).

reactant | 2-Bromo-4-(trifluoromethoxy)phenol | 5.83 mmol, 1.5 g | BrC1=C(C=CC(=C1)OC(F)(F)F)O | C7H4BrF3O2
reactant | cyclobutyl bromide | 17.5 mmol, 3.0 g | C1(CCC1)Br | C4H7Br
reactant | Potassium carbonate | 35 mmol, 4.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | 50 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-Bromo-4-(cyclobutyloxy)trifluoroanisole | 1.65 g, 91% | BrC=1C=C(C=CC1OC1CCC1)OC(F)(F)F | C11H10BrF3O2
